US09334265B2
Intermediate 101: Ethyl 2-(3,5-dimethyl-1H-pyrazol-1-yl)propanoate
A suspension of 3,5-dimethyl-1H-pyrazole (ALDRICH, 8 g, 0.083 mol), anhydrous K2CO3 (ALDRICH, 11.50 g, 0.083 mol) and ethyl 2-bromopropanoate (ALDRICH, 15 g, 0.083 mol) in 50 mL of dry ACN was refluxed with mechanical stirring for 24 h. Reaction was checked by TLC (iodine), and starting material was detected. 0.2 equivalents of K2CO3 were added to the mixture which was refluxed over the weekend. Reaction was checked, starting material was still detected. 0.2 eq. of K2CO3 were added to the mixture, which was refluxed during 24 additional hours. Reaction mixture was filtered. Solvent was evaporated under reduced pressure. Residue was diluted with 50 ml of DCM, and washed with water. Organic layer was separated and aqueous fraction was extracted three times with 70 mL of DCM. Combined organic extracts were washed with brine, dried over Na2SO4 (anh), filtered and concentrated under reduce pressure. Residue was purified using a 70 g silica gel cartridge with a linear gradient of hexane/EtOAc 100/0 to 20/80 to yield the title compound (11.6 g 71%) as colourless oil. 1H NMR (300 MHz, CDCl3) δ ppm: 5.83 (s, 1H), 4.85 (q, 1H), 4.08-4.25 (m, 2H), 2.22-2.23 (m, 6H), 1.79 (d, 3H), 1.23 (t, 3H).

reactant | 3,5-dimethyl-1H-pyrazole | 0.083 mol, 8 g | CC1=NNC(=C1)C | C5H8N2
reactant | K2CO3 | 0.083 mol, 11.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromopropanoate | 0.083 mol, 15 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | iodine | II | I2
reactant | K2CO3 | 0.2 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 0.2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | Ethyl 2-(3,5-dimethyl-1H-pyrazol-1-yl)propanoate | 11.6 g, 71% | CC1=NN(C(=C1)C)C(C(=O)OCC)C | C10H16N2O2
